US08030347B2
N-(3-Oxo-2,3-dihydro-1-benzofuran-6-yl)acetamide
32.6 g (0.181 mol) of chloroacetyl chloride are added, followed within 15 minutes by 20 g (0.121 mol) of N-(3-methoxyphenyl)acetamide, to a solution of 64.6 g (0.484 mol) of aluminum chloride in 100 ml of 1,2-dichloroethane at 0° C. under argon. The temperature rises to 10° C. during this. The mixture is then slowly warmed to room temperature and stirred overnight. The brown mixture is added to ice-water, and ethyl acetate is added. After vigorous stirring, N-(3-methoxy-4-chloroacetylphenyl)acetamide precipitates and is filtered off with suction and dried under higher vacuum. The resulting solid is introduced into 140 ml of ethanol and, after addition of 13.2 g (0.154 mol) of sodium acetate, heated under reflux overnight. Cooling is followed by addition of water, and the ethanol is stripped off in a rotary evaporator. The precipitated solid is filtered off with suction on a frit and dried. 9.35 g (40% of theory) of the product result as a solid with a pale reddish color.

reactant | chloroacetyl chloride | 0.181 mol, 32.6 g | ClCC(=O)Cl | C2H2Cl2O
reactant | N-(3-methoxyphenyl)acetamide | 0.121 mol, 20 g | COC=1C=C(C=CC1)NC(C)=O | C9H11NO2
reactant | aluminum chloride | 0.484 mol, 64.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium acetate | 0.154 mol, 13.2 g | C(C)(=O)[O-].[Na+]
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-Oxo-2,3-dihydro-1-benzofuran-6-yl)acetamide | O=C1COC2=C1C=CC(=C2)NC(C)=O | C10H9NO3
